US07932272B2
2-Amino-N-(1-(3-fluoro-benzyl)-1H-pyrrol-3-ylmethyl)-6-methylamino-nicotinamide
2-Amino-6-chloro-N-(1-(3-fluoro-benzyl)-1H-pyrrol-3-ylmethyl)-nicotinamide described in Preparation Example A+-5 (50 mg, 0.14 mmol) was dissolved in a mixture solution of dimethylsulfoxide (1 mL) and N,N-diisopropylethylamine (0.5 mL), methylamine (2.0 M tetrahydrofuran solution) (1 mL, 2 mmol) was added thereto, and the solution was heated in a sealed tube for 15 hours (oil bath temperature: 135° C.). The reaction mixture was allowed to room temperature, poured into brine, and the solution was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate then concentrated, the obtained residue was purified by NH silica gel column chromatography (ethyl acetate), and the title compound (7.3 mg, 0.021 mmol, 15%) was obtained.

reactant | 2-Amino-6-chloro-N-(1-(3-fluoro-benzyl)-1H-pyrrol-3-ylmethyl)-nicotinamide | NC1=C(C(=O)NCC2=CN(C=C2)CC2=CC(=CC=C2)F)C=CC(=N1)Cl | C18H16ClFN4O
reactant | methylamine | 2 mmol, 2.0 M, 1 mL | CN | CH5N
solvent | dimethylsulfoxide | 1 mL | CS(=O)C | C2H6OS
solvent | N,N-diisopropylethylamine | 0.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | brine | [Cl-].[Na+].O
product | 2-Amino-N-(1-(3-fluoro-benzyl)-1H-pyrrol-3-ylmethyl)-6-methylamino-nicotinamide | 0.021 mmol, 7.3 mg, 15% | NC1=C(C(=O)NCC2=CN(C=C2)CC2=CC(=CC=C2)F)C=CC(=N1)NC | C19H20FN5O
